2191-06-01 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - LIJ placed for improved access
   - Received 1.5 L boluses with MAP 50s. MvO2 69 with nl lactate. Given
   500mg bolus over 5min x 3 with no improvement in MAP so started on
   levophed gtt. Received add'l 1L bolus.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-5-31**] 09:05 PM
   Levofloxacin - [**2191-5-31**] 10:57 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2191-5-31**] 09:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-6-1**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.3
C (101
   HR: 112 (108 - 146) bpm
   BP: 105/44(57) {73/24(37) - 144/105(115)} mmHg
   RR: 33 (15 - 60) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 146.5 kg (admission): 146.5 kg
    CVP: 12 (11 - 18)mmHg
   Mixed Venous O2% Sat: 69 - 77
   Total In:
                                                                  1,514 mL
                                                                  2,457 mL
   PO:
   TF:
   IVF:
                                                                  1,514 mL
                                                                  2,457 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                    385 mL
   Urine:
                                                                    360 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,154 mL
                                                                  2,072 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 550) mL
   RR (Set): 20
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 34 cmH2O
   SpO2: 99%
   ABG: 7.41/37/201/22/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 335
   Physical Examination
   GENERAL: obese female, sedated
   HEENT: +ET tube
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2 but distant. No
   murmurs, rubs or [**Last Name (un) 2911**]. JVP difficult to assess [**1-24**] habitus
   LUNGS: Clear, no w/r/r
   ABDOMEN: Obese, NABS. Soft, NT, ND. No HSM
   EXTREMITIES: Right lower extremity wrapped with wound vac in place
   draining bloody fluid. Right toes: warm, well perfused, good capillary
   refill.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Sedated. Pupils reactive.
   Labs / Radiology
   177 K/uL
   7.7 g/dL
   130 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.2 mEq/L
   6 mg/dL
   107 mEq/L
   138 mEq/L
   22.8 %
   17.4 K/uL
        [image002.jpg]
                             [**2191-5-31**]  09:10 PM
                             [**2191-5-31**]  10:22 PM
                             [**2191-6-1**]  04:10 AM
   WBC
   17.4
   17.4
   Hct
   26.5
   22.8
   Plt
   179
   177
   Cr
   0.6
   0.7
   TCO2
   24
   Glucose
   129
   73
   130
   Other labs: PT / PTT / INR:15.1/28.0/1.3, ALT / AST:51/62, Alk Phos / T
   Bili:101/0.4, Fibrinogen:625 mg/dL, Lactic Acid:1.0 mmol/L, LDH:384
   IU/L, Ca++:6.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   20 F with no PMHx s/p MVA accident and tib-fib s/p ORIF transferred
   from Ortho Service to Medicine and now MICU for worsening hypoxia.
   # Hypoxia: Still unclear etiology with ARDS physiology. Considered
   infection with atypical organisms vs flu, fat emboli, aspiration.
   - Bronch today to r/o infection, eosinophilia and perhaps diagnose fat
   emboli syndrome
   - CXR to confirm ET tube placement as well as for interval assessment
   - Continue vanco and zosyn for coverage of HAP as well as levofloxacin
   for atypicals
   - Follow fever and WBC curve
   - F/u sputum cx, send urine legionella and influenza DFA
   - Continue lovenox for ppx
   - Supportive ventilation with fentanyl/versed for sedation-PRN morphine
   for turns; wean as tolerated
   - F/u any Pulm recs (consulted on floor)
   - Re-attempt a-line today for repeated ABGs
   - Change tidal volumes based on height
   - consider esophageal balloon pressure today to ensure measuring lung
   compliance and not chest wall compliance given obesity
   # Hypotension: Hypotensive in setting of positive pressure on vent as
   well as sedation. Concern for sepsis in setting of infection. Better
   today after pressors and IVF.
   - IVF boluses prn to maintain MAP >60. UOP >30. CVP>12
   - Attempt to wean pressors today
   - F/u panculture data; abx as above
   - Trend Hct as post-op; already crossmatched x 4 units, maintain active
   T&S
   # Anemia: Baseline unclear but Hct 36 on admission; decreased to 26
   which may be in setting of surgical repair of tib/fib with small amount
   bloody drainage from wound vac. Now to 22 with aggressive IVF.
   - Monitor [**Hospital1 **] Hcts
   - Guaiac all stools
   - CVL with active T&S as above; transfuse for Hct <21
   #)Tib/Fib fx: S/p ORIF by Ortho with plan for revision on [**6-2**]. However
   will postpone given acute decompensation.
   - Fentanyl gtt/ morphine prn for pain control
   - F/u ortho recs
   # ?Syncope: Patient was involved in MVA with question of syncope prior
   to collision. Has had negative CT head and monitored on tele with no
   arrhythmia except sinus tachy thought [**1-24**] infection. EKG without
   ischemic changes. TTE negative for structural disease. No h/o syncope
   or seizures so suspicion in accident is low. Serum tox positive only
   for opioids on arrival which could be accounted for by morphine
   received at OSH.
   - Monitor on tele
   ICU Care
   Nutrition: NPO. Start TFs today.
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-5-31**] 09:11 PM
   18 Gauge - [**2191-5-31**] 09:12 PM
   Multi Lumen - [**2191-6-1**] 12:45 AM
   Prophylaxis:
   DVT: lovenox, boots
   Stress ulcer: Change to H2 blocker today
   VAP:  mouth care
   Comments:
   Communication:  Comments: Mother [**Name (NI) 6537**] [**0-0-**], Father [**Name (NI) 2446**]
   [**Telephone/Fax (1) 6538**]. Contact PCP today for update.
   Code status: Full
   Disposition: ICU

2191-06-02 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - A-line placed
   - Bronch with some blood/hemorrhage of R lung, clear L lung, ? trauma
   from ET suction vs. hemorrhage. Infuenza DFA negative.
   - Given total of 3 U PRBC over yesterday ([**6-1**]) but Hct did not bump
   appropriately
   - Had desat episodes to low 90s with re-positioning despite elevating
   FiO2 and PEEP requirements. Esophageal balloon in place.
   - Started pressors back for MAPS<60 but weaned off this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-6-1**] 08:08 PM
   Levofloxacin - [**2191-6-1**] 09:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2191-6-2**] 06:06 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2191-6-1**] 08:00 AM
   Famotidine (Pepcid) - [**2191-6-1**] 08:00 PM
   Fentanyl - [**2191-6-1**] 09:13 PM
   Midazolam (Versed) - [**2191-6-2**] 01:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-6-2**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 39.2
C (102.6
   HR: 107 (101 - 125) bpm
   BP: 106/59(73) {94/53(66) - 130/73(89)} mmHg
   RR: 30 (25 - 39) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 146.5 kg (admission): 146.5 kg
   Height: 63 Inch
    CVP: 19 (12 - 22)mmHg
   Bladder pressure: 9 (9 - 9) mmHg
   Mixed Venous O2% Sat: 65 - 65
   Total In:
                                                                  6,732 mL
                                                                    566 mL
   PO:
   TF:
                                                                     28 mL
   IVF:
                                                                  4,885 mL
                                                                    508 mL
   Blood products:
                                                                    817 mL
   Total out:
                                                                  2,605 mL
                                                                    800 mL
   Urine:
                                                                  2,355 mL
                                                                    780 mL
   NG:
                                                                    100 mL
                                                                     20 mL
   Stool:
   Drains:
                                                                    150 mL
   Balance:
                                                                  4,127 mL
                                                                   -234 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: VOL/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 39 cmH2O
   Plateau: 35 cmH2O
   SpO2: 99%
   ABG: 7.40/39/98.[**Numeric Identifier 500**]/24/0
   Ve: 13.2 L/min
   PaO2 / FiO2: 163
   Physical Examination
   GENERAL: Obese female, intubated and sedated
   CARDIAC: Regular rhythm, tachycardic. Normal S1, S2 but distant.
   LUNGS: Bronchial.
   ABDOMEN: Obese, NABS. Soft, NT, ND. No HSM
   EXTREMITIES: RLE bandaged with wound vac in place draining bloody
   fluid. Right toes warm, well perfused, good capillary refill.
   NEURO: Responds to commands, pupils reactive.
   Labs / Radiology
   195 K/uL
   8.7 g/dL
   112 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.9 mEq/L
   7 mg/dL
   108 mEq/L
   139 mEq/L
   25.6 %
   15.5 K/uL
        [image002.jpg]
                             [**2191-5-31**]  10:22 PM
                             [**2191-6-1**]  04:10 AM
                             [**2191-6-1**]  09:56 AM
                             [**2191-6-1**]  03:27 PM
                             [**2191-6-1**]  03:35 PM
                             [**2191-6-1**]  08:30 PM
                             [**2191-6-1**]  08:47 PM
                             [**2191-6-2**]  01:00 AM
                             [**2191-6-2**]  02:00 AM
                             [**2191-6-2**]  02:22 AM
   WBC
   17.4
   15.5
   Hct
   22.8
   22.9
   25.1
   25.8
   25.6
   Plt
   177
   195
   Cr
   0.7
   0.7
   TCO2
   24
   24
   26
   26
   25
   Glucose
   73
   130
   112
   Other labs: PT / PTT / INR:14.2/28.8/1.2, ALT / AST:35/43, Alk Phos / T
   Bili:86/1.2, Differential-Neuts:86.0 %, Lymph:9.1 %, Mono:4.6 %,
   Eos:0.2 %, Fibrinogen:625 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.6
   g/dL, LDH:549 IU/L, Ca++:7.2 mg/dL, Mg++:2.5 mg/dL, PO4:2.3 mg/dL
   CT abd/pelvis: Worsening of bilateral opacities at lung bases, Grade 1
   liver laceration with small sliver of perihepatic fluid/hematoma.
   Assessment and Plan20 F with no PMHx s/p MVA accident and tib-fib s/p
   [**Hospital **] transferred from Ortho to Medicine and now MICU for worsening
   hypoxia with ARDS picture.
   # Hypoxia: ARDS physiology (PaO2/FiO2= 163) with evidence of
   multi-focal PNA in the lung bases seen on CT abdomen yesterday.
   Etiology may be [**1-24**] infection, contusion/trauma, fat emboli. Bronch
   yesterday with R bronchus friability with bloody fluid, 2+ PMN
s, no
   organisms on gram stain. Urine legionella negative. Esophageal balloon
   placed.
   - Continue vanco and zosyn for coverage of HAP as well as levofloxacin
   for atypicals, consider widening coverage
   - Follow fever and WBC curve, daily CXR
   - F/u sputum/BAL cx and cytology
   - Check amylase/lipase to r/o trauma to pancreas
   - Check LENIs; cont lovenox for ppx
   - Supportive ventilation with fentanyl/versed for sedation; wean FiO2
   as tolerated with target Vt 360 (adjusted per height); will let PCO2
   ride for now
   # Fever: Patient continues to spike despite Levo/Vanc/Zosyn.  Possible
   etiologies include PNA, PE/DVT, urinary tract source, surgical wound
   and area of skin breakdown on patient
s buttocks, drug reaction.
   - LENIs today
   - Continue daily cx
   - Check C. diff
   - Consider widening coverage for VAP
   - Review medication list for possible fever precipitants
   # Hypotension: Patient less hypotensive with IVF and pressors since
   admission to MICU, now requiring only levophed at 0.02.  Concern for
   sepsis in setting of infection as primary etiology.
   - On pressors now with goal MAP >60, UOP >30, CVP>12
   - IV fluid boluses if BUN/Cr rises or SvO2, CVP low
   - F/u panculture data; abx as above
   - Trend Hct as post-op, maintain active T&S
   # Anemia: Baseline unclear but Hct 36 on admission.  Hct was 22.8
   yesterday am, she received 3 units pRBC over the course of the day with
   an inappropriate bump to 25.6.  Possible etiologies include continued
   blood loss (into pelvis/thigh) vs post-op fluid shift (dropping HCt
   coincided with post-op day 3, when large fluid shifts are expected).
   - Check CK and trend to monitor for compression syndrome
   - F/u ortho recs
   - Monitor [**Hospital1 **] Hcts
   - Guaiac all stools
   - Check haptoglobin to evaluate for hemolysis, retic count to evaluate
   for marrow suppression
   - CVL with active T&S as above; transfuse for Hct <21
   #)Tib/Fib fx: S/p ORIF by Ortho with plan for revision on [**6-2**]
   (post-poned). Ortho to change wound vac today.
   - Fentanyl gtt with morphine prn for pain control
   - F/u ortho and trauma recs
   # Liver laceration: Seen on CT abd/pelvis
   -Check abdominal pressure for baseline
   # ?Syncope: Patient was involved in MVA with question of syncope prior
   to collision. Has had negative CT head and monitored on tele with no
   arrhythmia except sinus tachy thought [**1-24**] infection. EKG without
   ischemic changes. TTE negative for structural disease. No h/o syncope
   or seizures so suspicion in accident is low. Serum tox positive only
   for opioids on arrival which could be accounted for by morphine
   received at OSH.
   - Monitor on tele
   - Defer further workup until patient
s clinical appearance has improved
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2191-6-2**] 05:04 AM 15 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-6-1**] 12:45 AM
   Arterial Line - [**2191-6-1**] 01:00 PM
   18 Gauge - [**2191-6-1**] 03:00 PM
   Prophylaxis:
   DVT: lovenox, boots
   Stress ulcer: H2 blocker
   VAP:  mouth care
   Comments: bowel regimen
   Communication:  Comments: Mother [**Name (NI) 6537**] [**0-0-**], Father [**Name (NI) 2446**]
   [**Telephone/Fax (1) 6538**]. Contact PCP today for update.
   Code status: Full code
   Disposition: ICU